US05620979
Preparation of 6-Amino-5-chloro-7-trifluoromethyl-1,4-dihydroquinoxaline-2,3-dione
A mixture of 5-chloro-6-nitro-7-trifluoromethyl-1,4-dihydroquinoxaline-2,3-dione (230 mg, 0.743 mmol), SnCl2.2 H2O (1.90 g, 7.43 mmol) and EtOH (300 mL) was refluxed for 24 h, then rota-evaporated to dryness. The residual solid was washed on a Bursch funnel with water (6×15 mL), and dried to give 153 mg (74%) of the title compound as a yellow powder. Mp >360° C. 1H NMR (DMSO-d6) 11.777 (s, IH), 11.360 (s, 1H), 7.140 (s, 1H), 5.499 (s, 2H).

reactant | 5-chloro-6-nitro-7-trifluoromethyl-1,4-dihydroquinoxaline-2,3-dione | 0.743 mmol, 230 mg | ClC1=C2NC(C(NC2=CC(=C1[N+](=O)[O-])C(F)(F)F)=O)=O | C9H3ClF3N3O4
reactant | SnCl2 | Cl[Sn]Cl
reactant | H2O | 7.43 mmol, 1.90 g | O | H2O
solvent | EtOH | 300 mL | CCO | C2H6O
product | 6-Amino-5-chloro-7-trifluoromethyl-1,4-dihydroquinoxaline-2,3-dione | 153 mg, 74% | NC=1C(=C2NC(C(NC2=CC1C(F)(F)F)=O)=O)Cl | C9H5ClF3N3O2
